US09062068B2
Preparation of 5-amino-2-bromo-4-fluorobenzonitrile
3-amino-4-fluorobenzonitrile (9.82 g, 72.1 mmol) was dissolved in acetonitrile to give a pale yellow solution. NBS (13.5 g, 75.7 mmol) was added in portions; the reaction mixture turned brown-blackish but remained a solution. After the completion of the reaction was confirmed by TLC and HPLC, silica gel was added to the reaction mixture and the solvent was evaporated under reduced pressure. The crude product was leaded on a CombiFlash column (330 g) and the product was eluted with hexanes/ethyl acetate (0→15% gradient). The clean fractions were combined to give 9.63 g (62%) of a yellowish off-white solid. More product was found in mixed fractions which were discarded. 1H NMR (300 MHz, dmso) δ 7.57 (d, J=10.9 Hz, 1H), 7.17 (d, J=8.7 Hz, 1H), 5.85 (s br, 2H); MS (ES) 213/215 (M−H).

reactant | 3-amino-4-fluorobenzonitrile | 72.1 mmol, 9.82 g | NC=1C=C(C#N)C=CC1F | C7H5FN2
reactant | NBS | 75.7 mmol, 13.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-amino-2-bromo-4-fluorobenzonitrile | 9.63 g, 62% | NC=1C(=CC(=C(C#N)C1)Br)F | C7H4BrFN2
